US07741327B2
In a flask was placed 3-bicyclo[2.2.1]hept-2-yl-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (87 mg, 0.22 mmol) dissolved in tetrahydrofuran (3 mL). To this mixture at 25° C. was added a solution of lithium hydroxide monohydrate (19 mg, 0.44 mmol) in water (3 mL) and stirred for 1 h at 25° C. The mixture was then treated with a 1N aqueous hydrochloric acid solution to pH=2 and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to afford 3-bicyclo[2.2.1]hept-2-yl-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid (73 mg, 87%) as a yellow solid.

reactant | 3-bicyclo[2.2.1]hept-2-yl-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 0.22 mmol, 87 mg | COC(C(CC1C2CCC(C1)C2)N2C(C=C(C2)OC2=C(C=CC=C2F)F)=O)=O | C21H23F2NO4
reactant | lithium hydroxide monohydrate | 0.44 mmol, 19 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 3-bicyclo[2.2.1]hept-2-yl-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid | 73 mg, 87% | C12C(CC(CC1)C2)CC(C(=O)O)N2C(C=C(C2)OC2=C(C=CC=C2F)F)=O | C20H21F2NO4
